* C:\Users\tjagielski\Documents\Projects\School\Sophomore - Semester 2\Circuits\MicroelectronicCircuits\lab9\Simulation\Experiment 3 - Current-Mirror Differential Amplifier.asc
XU1 N006 Vin N009 nmos3
XU2 N009 N004 P001 nmos3
XU3 P002 Vb 0 nmos3
V§Ib N009 P002 0
XU4 P003 N001 N001 pmos3
XU5 P004 N003 N003 pmos3
XU6 N005 N003 P005 pmos3
XU7 N002 N001 P006 pmos3
V§I1 N001 N006 0
V§I2 N003 P001 0
V§I7 N005 N007 0
V§I4 N002 N004 0
XU8 0 N007 N007 nmos3
XU9 N008 N007 0 nmos3
XU10 P003 vdd
XU11 P004 vdd
XU12 P005 vdd
XU13 P006 vdd
Vdd P007 0 5
Vin Vin 0 PWL(0u 2.5 1m 2.5 1.1m 2.54 7m 2.54 7.1m 2.5 10m 2.5)
Vb Vb 0 0.6152
XU14 P007 vdd
V§Iout N004 Vout 0
V§I8 N004 N008 0
C1 Vout 0 1nF
.include engr2420.sub
* Threshold - 0.6152 V\nStrong Inversion -  1 V
.tran 0 15m 0 0.00000005
.backanno
.end
